US07485634B2
Preparation of 3-(4-fluorobenzoyl)-1-oxo-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
To a mixture of ethyl 3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate (190 mg, 0.5 mmol) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (139 mg, 0.6 mmol) was added a mixture of THF-H2O (9:1, 8 mL) at ambient temperature. The reaction mixture was allowed to stir at ambient temperature for 2 hours. Additional DDQ (139 mg, 0.6 mmol) was added, and the mixture was stirred at ambient temperature for another 2 hours. The solvent was removed in vacuo, and the residue was taken up in EtOAc and washed thoroughly with saturated sodium bicarbonate solution and then with brine. The organic phase was dried with sodium sulfate, and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with hexane-EtOAc (85:15) to give the title compound as a yellow solid (180 mg, 92%); 1H-NMR (CDCl3): δ 11.4 (1H, s), 8.52-8.48 (2H, m), 7.66-7.62 (2H, m), 7.48-7.46 (1H, m), 7.37-7.31 (2H, m), 7.22-7.17 (2H, m), 4.53 (2H, s), 4.38 (2H, q), 1.35 (3H, t); MS (ES): 393 (MH+).

reactant | ethyl 3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | 0.5 mmol, 190 mg | FC1=CC=C(C(=O)N2C=C(C=3NC=4C=CC=CC4C3CC2)C(=O)OCC)C=C1 | C22H19FN2O3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.6 mmol, 139 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | DDQ | 0.6 mmol, 139 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF H2O | 8 mL | C1CCOC1.O
product | 3-(4-fluorobenzoyl)-1-oxo-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 180 mg, 92% | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=CC=CC21)=O)C(C2=CC=C(C=C2)F)=O | C22H17FN2O4
